US04937373
A mixture of 2.0 g of 4-(3,4-dimethoxyphenyl)-3-butyn-1-ol and 0.2 g of 10% palladium on carbon in 40 mL of ethanol was stirred in a hydrogen atmosphere for 4 hours. After filtration, the filtrate was concentrated under reduced pressure to give 1.9 g of 4-(3,4-dimethoxyphenyl)butan-1-ol as an oil.

reactant | 4-(3,4-dimethoxyphenyl)-3-butyn-1-ol | 2.0 g | COC=1C=C(C=CC1OC)C#CCCO | C12H14O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 4-(3,4-dimethoxyphenyl)butan-1-ol | 1.9 g | COC=1C=C(C=CC1OC)CCCCO | C12H18O3
